US05559113
Cyclohexylmethyl (1H-imidazol-4-yl)methyl ether
The preparation is carried out as in Example 36 with cyclohexylmethyl chloride and sodium [1-(triphenylmethyl)imidazol-4-yl]methoxide. The title compound is crystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | cyclohexylmethyl chloride | C1(CCCCC1)CCl | C7H13Cl
reactant | sodium [1-(triphenylmethyl)imidazol-4-yl]methoxide | C1(=CC=CC=C1)C(N1C=NC(=C1)C[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
product | Cyclohexylmethyl (1H-imidazol-4-yl)methyl ether | N1C=NC(=C1)COCC1CCCCC1 | C11H18N2O
